Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___.
 
Chief Complaint:
Constipation
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old woman with PMH significant for chronic 
constipation who presents with constipation and rectal pain.

She states she has not had a normal bowel movement in 4 days. 
She did have a very small liquid bowel movement today after she 
try to take some milk of magnesia. She also took 1 tablet of 
colace OTC today. She has had this is a chronic problem, and 
says that it is made worse by her history of having hemorrhoids 
and rectal pain. She also has significant rectal pain today, it 
radiates to her back and to her lower abdominal region. It is 
worse when she attempts to have a bowel movement. Today only she 
had chills, rigors with defecation that have since resolved. She 
denies any dysuria, polyuria, or frequency. She says she is 
reluctant to urinate as it is causing her pain in her rectum 
when she tries to urinate. Does fluctuate between constipation 
and diarrhea throughout the year. 

Has had 15 ED visits since her childhood for severe 
constipation, no hospitalizations, and does not recall having to 
be dis-impacted in the past. She does not take a stool softener 
consistently. Reports mild blood stranding with BMs.  Diarrhea 
usually occurs with dairy products and she has previously tried 
a lactose free diet. Has reported history of hypothyroidism but 
pt denies taking synthroid.

Pt is currently sexually active with boyfriend. She has been 
tested for HIV/STDs in last month at her OB. Denies anal 
intercourse.

In the ED, initial VS were: 98.3 120 150/88 20 100% RA   
ED physical exam was recorded as abdominal examination with 
distention but no tenderness, external hemorrhoids, no focal 
fluctuance, no gross blood
ED labs were notable for: WBC 12.6
CT abd showed focal marked distension of the rectum near the 
rectosigmoid junction with hyper enhancement of the rectal 
mucosa, concerning for proctocoliti and possibly stercoral 
colitis. No evidence of perforation. No drainable fluid 
collection or abscess.
2. Normal appearing appendix and the terminal ileum. 
Unremarkable SI joints.

Colorectal surgery called: "admit to medicine. no surgical 
issues"

Patient was given NS 1L, morphine 4mg IV, fleet enema, and cipro
Transfer VS were: 78 116/81 16 100% RA 

ROS:
+ constipation, chills, rigors, abd pain, hematochezia, tenesmus
- dysuria, polyuria, fever, weight loss, rhinitis, confusion
10 pt ROS otherwise neg

 
Past Medical History:
Chronic constipation
Hypothyroidism
Bartholin's gland abscess
CIN1
 
Social History:
___
Family History:
  Mother  ___ 
___ Grandfather  ___ diabetes type ii [OTHER] 
Paternal Grandmother  ___ - Type II 
Sister  ___ - ___ Disorder 
Maternal Grandmother  ___ - Type II .
Maternal Aunt  ___ - ___ Disorder; Seizures/Convulsions 
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
 Vitals: 98.4 PO99 / 64 R ___
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: (+) BS, soft, NT, ND
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop. No focal deficits
 Psych: Full range of affect
 
Pertinent Results:
___
WBC 12.6, Hgb 13.5, Hct 38.8, Plt 265
ALT 13, AST 24, ALKP 52, Tbili 0.6, Lipase 25, Alb 4.3
Gluc 106, BUN 10, Cr 0.7, Na 141, K 4.5, Cl 106, HCO3 19, AG 21

___ CT a/p   
1. Focal marked distension of the rectum near the rectosigmoid 
junction with hyper enhancement of the rectal mucosa, concerning 
for proctocolitis and  possibly stercoral colitis. No evidence 
of perforation. No drainable fluid  collection or abscess. 
2. Normal appearing appendix and the terminal ileum. 
Unremarkable SI joints. 

___ AXR
No evidence for bowel obstruction or free intraperitoneal air.  
No significant  fecal loading within the colon identified. 

Discharge Labs: 

___ 07:25AM BLOOD WBC-8.7 RBC-3.79* Hgb-11.8 Hct-34.7 
MCV-92 MCH-31.1 MCHC-34.0 RDW-12.1 RDWSD-40.9 Plt ___
___ 07:25AM BLOOD Glucose-91 UreaN-9 Creat-0.7 Na-139 K-3.6 
Cl-106 HCO3-22 AnGap-15
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with PMH significant for chronic 
constipation who presents with constipation and rectal pain. 
CTAP findings c/w proctocolitis, possibly stercoral colitis. 
Colorectal surgery evaluated her and found numerous anal 
fissures. They recommended an aggressive bowel regimen, 
nifedipine topical cream for fissure pain, and a flex 
sigmoidoscopy. Gastroenterology was contacted for consideration 
for a flex sigmiodoscopy, but stated her presentation warranted 
a full colonoscopy which could be done as an outpatient. 

Shortly after admission, the patient had numerous large bowel 
movements resulting in much improvement in her abdominal 
discomfort and rectal pain. She was discharged home and 
instructed to continue a scheduled bowel regimen and eat a diet 
high in fiber along with good fluid intake. No need for 
antibiotics.

Because of the difficulty obtaining nifedipine cream as an 
outpatient (speciality compounded med) and the patient was 
feeling better after having a BM, she declined prescription. ___ 
___ d/w her PCP if she determines she needs this medication. 
She was instructed to ___ as an outpatient with her PCP to 
obtain referrals for GI for colonoscopy and CRS for ___ 
once the colonoscopy is completed. Her PCP was emailed with 
these requests. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth daily Refills:*0 
2.  Psyllium Powder 1 PKT PO TID 
RX *psyllium husk (aspartame) [Natural Fiber Supplement] 3.4 
gram 1 powder(s) by mouth three times a day Disp #*90 Packet 
Refills:*0 
3.  Senna 17.2 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*120 Tablet Refills:*0 
4.  Docusate Sodium 200 mg PO BID 
RX *docusate sodium [Colace] 100 mg 2 capsule(s) by mouth twice 
a day Disp #*120 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
proctocolitis
constipation
anion-gap metabolic acidosis

 
Discharge Condition:
Condition: good
Mental status: intact at baseline
Ambulatory status: independent

 
Discharge Instructions:
You were admitted to the hospital for constipation and were 
found to have inflammation of your intestines and anal fissures. 
You were seen by the colorectal surgeons who recommended an 
aggressive bowel regimen and an outpatient colonoscopy. You had 
multiple bowel movements while you were here and were feeling 
much better.

You should ___ with your primary care physician for 
___ and for referral for a colonoscopy.

It is very important that you adhere to a scheduled bowel 
regimen that includes a daily fiber supplement. You should also 
drink plenty of liquids to help prevent constipation.
 
Followup Instructions:
___